US06849622B2
Under argon atmosphere, a mixture comprising 1.0 g trans-4-(benzyloxycarbonylamino)cyclohexanecarbonyl chloride, 1.92 g of tributylphenyltin, 61 mg of dichlorobis(triphenylphosphine)palladium and 10 mL of dioxane was stirred at 110° C. for 12 hours. After cooling, the reaction mixture was concentrated by a centrifugal concentrator, and then, the residue was dissolved in tetrahydrofuran and evaporated to dryness with 5 g of silica gel. The resulting residue was purified by silica gel flash chromatography (solvent: ethyl acetate-hexane (1:2) to (1:1) to obtain 883 mg of N-benzyloxycarbonyl-trans-4-benzoylcylohexylamine.

reactant | trans-4-(benzyloxycarbonylamino)cyclohexanecarbonyl chloride | 1.0 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1CC[C@H](CC1)C(=O)Cl | C15H18ClNO3
reactant | tributylphenyltin | 1.92 g | C(CCC)[Sn](C1=CC=CC=C1)(CCCC)CCCC
catalyst | dichlorobis(triphenylphosphine)palladium | 61 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | N-benzyloxycarbonyl-trans-4-benzoylcylohexylamine | 883 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H]1CC[C@H](CC1)C(C1=CC=CC=C1)=O | C21H23NO3
